US04297350
17α-Ethinyl-17β-methoxyandrost-4-en-3-one (I)
Thallous ethoxide (0.8 ml.) is added to ethisterone (17α-ethinyl-17β-hydroxyandrost-4-en-3-one, 3.44 g.) in benzene (50 ml.). After mixing, the benzene is removed with the rotary evaporator and acetonitrile (50 ml.), benzene (40 ml.) and methyl iodide (1.7 ml.) are added. The mixture is refluxed and stirred for 2 hours. Additional methyl iodide (2 ml.) is added and the mixture refluxed another 2 hours. The precipitated thallous iodide is filtered off and the filtrate is concentrated to a residue which is taken up in boiling SSB and filtered thru Celite. After concentration the product is column chromatographed over silica gel eluting with increasing amounts of ethyl acetate in SSB. The appropriate fractions (TLC) are pooled and concentrated to give the title compound (recrystallized from SSB): m.p. 127°-131°; UV (ethanol) λ=240 nm (ε=16,500); MS (m/e) 326 and 311; IR (mull) 3240, 2100, 1670 and 1620 cm-1.

reactant | ethoxide | 0.8 ml | [O-]CC
reactant | ethisterone | 3.44 g | C[C@]12CCC(=O)C=C1CC[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@]4(C#C)O)C | C21H28O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 17α-Ethinyl-17β-methoxyandrost-4-en-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)OC | C22H30O2
